US07094790B2
4-Bromo-2-nitroaniline (12 g, 55 mmol), 1% Pt/C (1.2 g) and THF (120 mL) were added to a 250 mL bottle. The reaction mixture was hydrogenated at a pressure of approximately 40 psig H2. The hydrogenation reaction mixture was monitored by HPLC until the Area % of 4-bromo-2-nitroaniliine was less than 1%. The reaction mixture was filtered and then concentrated to yield 10.6 g of 4-bromo-benzene-1,2-diamine (as a black oil that solidifies). 4-Bromo-benzene-1,2-diamine was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 3.28 (br, 4H), 6.54 (d, 1H), 6.77–6.81 (m, 2H).

reactant | 4-Bromo-2-nitroaniline | 55 mmol, 12 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
catalyst | Pt/C | 1.2 g | [Pt] | Pt
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 4-bromo-benzene-1,2-diamine | 10.6 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
